Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.91932726234
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.85464189417
[H:6].[O:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.35555472975
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[H:7].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:8][H:9],2.0024884189
[H:1][C:2]1[C:3][C:4]([H:5])=[C:6]1[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-0.88534137469
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],2.61773404671
[H:10].[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.17771115317
[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.7255867932700002
[H:1][C:2][O:12][C:9]([O:8][C:5]([C:3][H:4])([H:6])[H:7])([H:10])[H:11]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12]1,-6.919059215639999
[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.39612459917
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],3.90544931762
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],6.8212823486800005
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:1],5.0850569946
[C:4]([H:5])[O:6][C:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8],-4.72991429044
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[O:3]=[C:4]=[C:5]([H:6])[H:7]>>[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.30442470077
[H:1][C:2](=[O:3])[C@@:5]([O:4])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]1[O:3][O:4][C@@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],2.71471664346
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],4.39579021261
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5],2.77382363843
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.84943193365
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],1.64353566218
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8],-4.1292780239
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.93128576864
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2],4.8537639422400005
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.2063834922
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],2.07524974041
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],5.25654651957
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-4.97209132011
[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[O:3],0.185540029681
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8][O:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.51041236689
